US05112998
The procedure of Example 24 was repeated except that 3.4 mg (0.00887 mmole) of 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-ol was used in lieu of 3.8 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-ol to give 2.7 mg of 20-(1,3-dioxolan-2-yl)pregna-5,7-diene-1α,3β-diol (yield: 78%).

reactant | 20-(1,3-dioxolan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-ol | 0.00887 mmole, 3.4 mg | O1C(OCC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H]([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)O | C24H34O4
reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α-epoxypregna-5,7-dien-3β-ol | 3.8 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H]([C@H]5[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O5)O)C | C27H40O4
product | 20-(1,3-dioxolan-2-yl)pregna-5,7-diene-1α,3β-diol | 2.7 mg, yield: 78% | O1C(OCC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C24H36O4
